US08008283B2
Bumetanide (1.2 g, 3.29 mmol) was dissolved in dimethylformamide (12 mL) and 2-chloro-N,N-diethylacetamide (500 mg, 3.35 mmol) was added followed by triethylamine (0.68 mL) and sodium iodide (500 mg 3.33 mmol). The reaction was heated to 95° C. for 8 hours, at which time TLC and LC/MS indicated the reaction was complete. The reaction was cooled to room temperature brought up in dichloromethane and washed with water, saturated ammonium chloride and reduced to a thick slurry. To the slurry was added water (25 mL), and the resultant solids precipitated from the solution. The product was filtered and dried in a vacuum oven at 50° C. for 12 hours to yield 1.0 g of N,N-diethylaminocarbonylmethyl 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate.

reactant | Bumetanide | 3.29 mmol, 1.2 g | CCCCNC=1C=C(C=C(C1OC=2C=CC=CC2)S(=O)(=O)N)C(=O)O | C17H20N2O5S
reactant | 2-chloro-N,N-diethylacetamide | 3.35 mmol, 500 mg | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | triethylamine | 0.68 mL | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 3.33 mmol, 500 mg | [I-].[Na+]
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N-diethylaminocarbonylmethyl 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate | 1.0 g | NS(=O)(=O)C=1C=C(C(=O)OCC(=O)N(CC)CC)C=C(C1OC1=CC=CC=C1)NCCCC | C23H31N3O6S
